US08754114B2
N-[3-(7-{1-[3-(Cyanomethyl)-1-(pyrrolidin-1-ylcarbonyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
This compound was prepared by using procedures analogous to those described for the synthesis of Example 85 starting from N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea and 1-pyrrolidinecarbonyl chloride. LCMS (M+H)+: m/z=593.2.

reactant | N-[3-(7-{1-[3-(cyanomethyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC1(CNC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C23H20F3N9O
reactant | 1-pyrrolidinecarbonyl chloride | N1(CCCC1)C(=O)Cl | C5H8ClNO
product | N-[3-(7-{1-[3-(Cyanomethyl)-1-(pyrrolidin-1-ylcarbonyl)azetidin-3-yl]-1H-pyrazol-4-yl}imidazo[1,2-b]pyridazin-3-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC1(CN(C1)C(=O)N1CCCC1)N1N=CC(=C1)C1=CC=2N(N=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | C28H27F3N10O2
